US08497360B2
To a solution of 2-tert-butylaniline (7.46 g, 50 mmol 15.6 mL) in hydrobromic acid (40% w/w, 15 mL) cooled at <5° C. (ice/salt bath), a solution of 7.55 g (0.11 mol) of sodium nitrite in 10 mL of water was added at a rate that the temperature did not exceed 10° C. (ca two hour addition time). When the diazotization was completed, 0.20 g of copper powder was added. (CAUTION: the solution was refluxed very cautiously because of vigorous gas evolution!). When the vigorous evolution of nitrogen subsided, the system was kept at 50° C. for 30 minutes and was then diluted with 80 mL of water and extracted three times with diethyl ether (100 mL each). The organic layer was washed with 10% solution of KOH; dried over Na2SO4, concentrated in vacuo, and purified by chromatography on silica gel chromatography. The product obtained was further distilled at 85° C. (3 mm Hg) to yield 1-bromo-2-tert-butylbenzene (2.88 g, 27%). 1H NMR (400 MHz, CDCl3): δ 7.58 (m, 1 H, Ph-H), 7.45 (m, 1 H, Ph-H), 7.24 (m, 1 H, Ph-H), 7.02 (m, 1 H, Ph-H), 1.51 (s, 9 H, C(CH3)3).

reactant | 2-tert-butylaniline | 50 mmol, 15.6 mL, 7.46 g | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | sodium nitrite | 0.11 mol, 7.55 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 15 mL | Br | BrH
solvent | water | 10 mL | O | H2O
solvent | water | 80 mL | O | H2O
catalyst | copper | 0.20 g | [Cu] | Cu
product | 1-bromo-2-tert-butylbenzene | 2.88 g, 27% | BrC1=C(C=CC=C1)C(C)(C)C | C10H13Br
